US06414145B1
A solution of methyl 4-bromomethyl-2-trifluoromethylsulfonyloxybenzoate (23.12 g; 61 mmol) and triphenylphosphine (16 g; 61 mmol) in toluene (240 ml) was refluxed for 5 hours. The resulting solid was filtered and washed with ether to give 3-trifluoromethylsulfonyloxy-4-methoxycarbonylbenzyl triphenylphosphonium bromide. Yield=100%.

reactant | methyl 4-bromomethyl-2-trifluoromethylsulfonyloxybenzoate | 61 mmol, 23.12 g | BrCC1=CC(=C(C(=O)OC)C=C1)OS(=O)(=O)C(F)(F)F | C10H8BrF3O5S
reactant | triphenylphosphine | 61 mmol, 16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 240 ml | C1(=CC=CC=C1)C | C7H8
product | 3-trifluoromethylsulfonyloxy-4-methoxycarbonylbenzyl triphenylphosphonium bromide | Yield=100% | [Br-].FC(S(=O)(=O)OC=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1C(=O)OC)(F)F | InChI=1S/C28H23F3O5PS.BrH/c1-35-27(32)25-18-17-21(19-26(25)36-38(33,34)28(29,30)31)20-37(22-11-5-2-6-12-22,23-13-7-3-8-14-23)24-15-9-4-10-16-24;/h2-19H,20H2,1H3;1H/q+1;/p-1
